US08053447B2
To a solution of 4-(4-aminocyclohexyloxy)benzoic acid ethyl ester (4.15 g, 15.76 mmol) in DCM (40 mL) at 0° C. was added TEA (1.6 g, 15.7 mmol) followed by cyclopropane carbonyl chloride (1.98 g, 18.9 mmol) over a period of 1 hr. Stirring was continued at 0-5° C. for 2 h. Water (40 mL) was then added and extracted with EtOAc. The organic layer was washed with 2N HCl, satd.NaHCO3 and brine solution. It was dried and concentrated under vacuum affording 4.75 g (91%) of 4-[4-(cyclopropanecarbonyl-amino)-cyclohexyloxy]-benzoic acid ethyl ester as an oil.

reactant | 4-(4-aminocyclohexyloxy)benzoic acid ethyl ester | 15.76 mmol, 4.15 g | C(C)OC(C1=CC=C(C=C1)OC1CCC(CC1)N)=O | C15H21NO3
reactant | cyclopropane carbonyl chloride | 18.9 mmol, 1.98 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Water | 40 mL | O | H2O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(cyclopropanecarbonyl-amino)-cyclohexyloxy]-benzoic acid ethyl ester | 4.75 g, 91% | C(C)OC(C1=CC=C(C=C1)OC1CCC(CC1)NC(=O)C1CC1)=O | C19H25NO4
